US04371605
N-Trifluoromethanesulfonyloxyphthalimide was prepared by the following procedure. To a dried flask equipped with a stirrer, under nitrogen, were added N-hydroxyphthalimide (3.04 g, 18.7 mmol), 60 mL of dried DME, and trifluoromethanesulfonyl chloride (2.00 mL, 18.7 mmol). The mixture was cooled to -15° and triethylamine (3.00 mL, 22 mmol) was added dropwise by syringe. After warming to room temperature, 100 mL of methylene chloride was added and the resulting mixture was washed with 100 mL of 2% aqueous sodium bicarbonate and dried. Evaporation of the solvent gave 4.65 g of crude N-trifluoromethanesulfonyloxyphthalimide: mp 90°-93°. Recrystallization from methylene chloride-hexane gave 2.65 g (48%) of product as shiny white flakes: mp 99°-102°; uv (CH3CN) 220 (47,000), 249 (2090), 297 nm (2290); ir (KBr) 1810 (m), 1750 (vs), 1440 (s), 1240 (s), 1230 (s), 1220 (s), 1115 (m), 940 (m), 860 (m), 695 (s), 585 (m); nmr (CDCl3) 8.10-7.85 (m); 19F nmr (CDCl3) -71.42 ppm (s); mass spectrum 294.9782 (calcd for C9H4NO5F3S: 294.9762).

reactant | N-hydroxyphthalimide | 18.7 mmol, 3.04 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | DME | 60 mL | COCCOC | C4H10O2
reactant | trifluoromethanesulfonyl chloride | 18.7 mmol, 2.00 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | triethylamine | 22 mmol, 3.00 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-trifluoromethanesulfonyloxyphthalimide | 4.65 g | FC(S(=O)(=O)ON1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C9H4F3NO5S
